US08026257B2
(±)-2-(2,2-Difluoroethyl)-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-2H-indazole.
(±)-tert-Butyl 4-((1-(2-(2,2-difluoroethyl)-5-methyl-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (10 mg, 0.02 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 1 mL) and stirred at room temperature for 1 h. The reaction was concentrated, loaded onto a strong cation exchange cartridge in methanol, and flushed with several volumes of methanol which were discarded. The crude secondary amine was eluted in 2 M ammonia in methanol and concentrated. The resulting residue was dissolved in acetonitrile (1 mL), cooled to 0° C., and treated with sodium cyanoborohydride (5.9 mg, 0.01 mmol) and formalin (0.52 mL). After 5 min, the reaction was treated with a few drops of acetic acid. The ice bath was removed and stirring continued for 1 h. The reaction was concentrated and purified by column chromatography (10% methanolic ammonia/methylene chloride) to afford 4.5 mg (54%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.83 (s, 1H), 7.30-7.34 (m, 2H), 7.22 (m, 1H), 6.99-7.02 (m, 2H), 6.67 (m, 1H), 6.05-6.29 (m, 1H), 4.86 (q, J=6.4 Hz, 1H), 4.64-4.71 (m, 2H), 3.33-3.38 (m, 2H), 2.57 (m, 2H), 2.28 (s, 3H), 2.20 (s, 3H), 2.15-2.24 (m, 6H), 1.44 (d, J=6.4 Hz, 3H). Mass spec.: 446.63(MH)+.

reactant | (±)-tert-Butyl 4-((1-(2-(2,2-difluoroethyl)-5-methyl-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.02 mmol, 10 mg | FC(CN1N=C2C(=CC(=CC2=C1)C)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)F | C29H36F3N3O3
reactant | sodium cyanoborohydride | 0.01 mmol, 5.9 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 0.52 mL | C=O | CH2O
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (±)-2-(2,2-Difluoroethyl)-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-2H-indazole | FC(CN1N=C2C(=CC(=CC2=C1)C)C(C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F)F | C25H30F3N3O
